US07855216B2
Step 1: 1-Cyclopropyl-3-(2-fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
This compound was prepared in an analogous fashion to 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]-pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide, using 1-cyclopropyl-3-(2-fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester as the starting material. 1H-NMR (500 MHz, CDCl3) δ ppm 9.50 (br s, 1H), 8.60 (d, J=0.88 Hz, 1H), 8.38 (d, J=5.97 Hz, 1H), 7.46 (dd, J=5.98 Hz, 1H), 7.10 (dd, J=11.45 Hz, 1H), 6.89 (dd, J=8.41 Hz, 1H), 6.66 (t, J=8.67 Hz, 1H), 6.42 (dd, J=14.33 Hz, 1H), 6.33 (br s, 1H), 4.29-4.22 (m, 2H), 4.18 (dd, J=14.33 Hz, 1H), 4.04 (dd, J=6.82 Hz, 1H), 3.98-3.90 (m, 2H), 3.61-3.53 (m, 1H), 2.44 (s, 3H), 1.33-1.20 (m, 2H), 1.01-0.96 (m, 2H); LC-MS (method D): [M+H]+=443.3, RT=2.17 min.

reactant | 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]-pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)I)F | C21H20FIN4O3
reactant | 1-cyclopropyl-3-(2-fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | COC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)SC)F | C19H18FN3O2S
product | 1-Cyclopropyl-3-(2-fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)SC)F | C22H23FN4O3S
